US04052385
Preparation of N-(1-methyl-2-phenyl-2-hydroxyethyl)-4-morpholinecarboxamide (See Example 28, Table I).
A solution of 15.2 grams of norephedrine in 200 ml. of CH2Cl2 was cooled to 0-5° C. To this 11.0 grams of triethylamine was added with stirring. To the stirred mixture a solution of 14.9 grams of morpholine carbonyl chloride in 10 ml. of CH2Cl2 was added dropwise. The mixture was then stirred for 2 hours and left to stand at room temperature for 16 hours. The mixture was washed with water and the organic layer was dried over anhydrous sodium sulfate. The organic layer was then filtered and evaporated to a small volume. The hydroxyethylurea, N-(1-methyl-2-phenyl-2-hydroxyethyl)-4-morpholinecarboxamide was filtered off as a white solid and recrystallized from CH2Cl2.

reactant | norephedrine | 15.2 grams | C[C@H]([C@H](C1=CC=CC=C1)O)N | C9H13NO
reactant | triethylamine | 11.0 grams | C(C)N(CC)CC | C6H15N
reactant | morpholine carbonyl chloride | 14.9 grams | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(1-methyl-2-phenyl-2-hydroxyethyl)-4-morpholinecarboxamide | CC(C(O)C1=CC=CC=C1)NC(=O)N1CCOCC1 | C14H20N2O3
